*Zout Gain stage
.options savecurrents

.param Rin_value=0.1k
.param R1_value=80k
.param R2_value=20k
.param Rc_value=0.7k
.param Re_value=0.2k
.param Rl_value=0.008k
.param Rout_value=0.06k
.param Ci_value=100u
.param Cb_value=2500u
.param Co_value=800u

.csparam Rin_value={Rin_value}
.csparam R1_value={R1_value}
.csparam R2_value={R2_value}
.csparam Rc_value={Rc_value}
.csparam Re_value={Re_value}
.csparam Rl_value={Rl_value}
.csparam Rout_value={Rout_value}
.csparam Ci_value={Ci_value}
.csparam Cb_value={Cb_value}
.csparam Co_value={Co_value}

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)


Vcc vcc 0 12.0
Vin in 0 0 
Rin in in2 {Rin_value}

* input coupling capacitor
Ci in2 base {Ci_value}

* bias circuit
R1 vcc base {R1_value}
R2 base 0 {R2_value}

* gain stage
Q1 coll base emit BC547A
Rc vcc coll {Rc_value}
Re emit 0 {Re_value}

* bypass capacitor
Cb emit 0 {Cb_value}

*output stage*

Q2 0 coll emit2 BC557A
Rout emit2 vcc {Rout_value}

* output coupling capacitor
Co emit2 out {Co_value}

Vout out 0 0 ac 1.0 
 
.op
.end

.control

* frequency analysis
ac dec 10 10 100MEG
let ZoutGainR= Re(-v(out)[40]/(i(Vout)[40]))
let ZoutGainI= Im(-v(out)[40]/(i(Vout)[40]))
let Zoutamp= abs(-v(out)[40]/(i(Vout)[40]))
let Zoutphase= phase(-v(out)[40]/(i(Vout)[40]))

echo  "zout_TAB"
echo "Zout= $&ZoutGainR + $&ZoutGainI j"
echo "Zout - Amplitude = $&Zoutamp "
echo  "zout_END"

quit
.endc 
.end

