*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends

.options savecurrents

.param R1_value=1k
.param R2_value=500
.param R3_value=100k
.param R4_value=500
.param C1_value=220n
.param C2_value=220n

.csparam R1_value={R1_value}
.csparam R2_value={R2_value}
.csparam R3_value={R3_value}
.csparam R4_value={R4_value}
.csparam C1_value={C1_value}
.csparam C2_value={C2_value}

Vcc vcc 0 10.0
Vee vee 0 -10.0
*Vin 1 0 0 ac 0
C1 0 in {C1_value}

X1 in inv_in vcc vee out uA741

R1 in 0 {R1_value}
R4 inv_in 0 {R4_value}
R3 out inv_in {R3_value}

* load
R2 out vo {R2_value}
C2 vo 0 {C2_value}
Vout vo 0 0 ac 1.0 sin(0 10 1k)
.op
.end

.control

* frequency analysis
ac dec 10 10 100MEG

print v(vo)
let ZoutGainR= Re(-v(vo)[20]/(i(Vout)[20]))
let ZoutGainI= Im(-v(vo)[20]/(i(Vout)[20]))
let Zoutamp= abs(-v(vo)[20]/(i(Vout)[20]))
 
echo  "zout_TAB"
echo "Zout= $&ZoutGainR + $&ZoutGainI j"
echo "Zout - Amplitude = $&Zoutamp "
echo  "zout_END"

quit
.endc 
.end

